US04228170
A solution (1.9 gm., 0.01 m.) of N-acetyl-8-amino-1,2,3,4 tetrahydroisoquinoline in 10 ml. of concentrated hydrochloric acid is stirred and then cooled to 0° C. The solution is then diazotized by the addition of (0.9 gm., 0.013 m.) sodium nitrite dissolved in 6 ml. of water. The solution of the diazonium salt is added to a mixture of 9 ml. of dioxane saturated with sulfur dioxide containing (1.2 gm., 0.016 m.) potassium chloride and (0.9 gm., 0.004 m.) cupric chloride dihydrate. The mixture is stirred at 25° C. for one hour and then at 40°-60° C. for thirty minutes. The mixture is diluted with water, extracted with ethyl acetate and the solvent is evaporated to yield N-acetyl-8-chlorosulfonyl-1,2,3,4-tetrahydroisoquinoline.

reactant | N-acetyl-8-amino-1,2,3,4 tetrahydroisoquinoline | 1.9 gm | C(C)(=O)N1CC2=C(C=CC=C2CC1)N | C11H14N2O
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | 0.9 gm | N(=O)[O-].[Na+]
reactant | sulfur dioxide | 1.2 gm | S(=O)=O | O2S
reactant | potassium chloride | [Cl-].[K+]
solvent | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-acetyl-8-chlorosulfonyl-1,2,3,4-tetrahydroisoquinoline | C(C)(=O)N1CC2=C(C=CC=C2CC1)S(=O)(=O)Cl | C11H12ClNO3S
